US04455422
2.5 Grams of 6-(4-chlorobutyl)-3,4-dihydrocarbostyril and 1.8 g of sodium iodide were mixed in 80 ml of acetone and stirred at 50° C. for 2 hours. Then to the reaction mixture was added 80 ml of dimethylformamide and the acetone was removed by distillation, and 2.0 g of 4-(4-tolyl)piperazine and 2.0 g of triethylamine were added to the reaction mixture, and stirred at 70°-80° C. for 5 hours. The reaction mixture was concentrated under a reduced pressure to obtain a residue. To the residue was added 50 ml of 5%-sodium hydrogencarbonate aqueous solution and stirred. The precipitates thus formed were collected by filtration, washed with water and dried. Recrystallization from isopropanol-diisopropyl ether, there were obtained 3.1 g of 6-{4-[4-(4-tolyl)- 1-piperazinyl]butyl}-3,4-dihydrocarbostyril in colorless prism-like crystals, having the melting point of 160°-161° C.

reactant | 6-(4-chlorobutyl)-3,4-dihydrocarbostyril | ClCCCCC=1C=C2CCC(NC2=CC1)=O | C13H16ClNO
reactant | sodium iodide | 1.8 g | [I-].[Na+]
reactant | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 6-{4-[4-(4-tolyl)- 1-piperazinyl]butyl}-3,4-dihydrocarbostyril | 3.1 g | C1(=CC=C(C=C1)N1CCN(CC1)CCCCC=1C=C2CCC(NC2=CC1)=O)C | C24H31N3O
